US04939138
A five liter round bottom flask was charged with 63.8 ml (0.45 mole) of trifluoroacetic anhydride and 400 ml of MDC under nitrogen. The resulting solution was cooled to -65° C. with a dry ice bath, treated with 42.6 g (0.54 mole) of dimethylsulfoxide over a period of 15 minutes, stirred for 30 minutes, and then treated with a solution of 90 g (0.32 mole) of 2-[3-(4-morpholinyl)-2-hydroxy-1-propyloxy]nitrobenzene in 200 ml of MDC over a 35 minute period. The reaction mixture was stirred for 30 minutes, with 261 ml of diisopropylethylamine, the reaction temperature allowed to rise to -10° C. and the mixture treated with one liter of diethyl ether. The pale yellow solid which separated was collected by filtration, slurried in 1.5 liters of diethyl ether and the product collected and dried to give 73.7 g of 2-[3-(4-morpholinyl)-2-keto-1-propyloxy] nitrobenzene.

reactant | trifluoroacetic anhydride | 0.45 mole, 63.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | dimethylsulfoxide | 0.54 mole, 42.6 g | CS(=O)C | C2H6OS
reactant | 2-[3-(4-morpholinyl)-2-hydroxy-1-propyloxy]nitrobenzene | 0.32 mole, 90 g | N1(CCOCC1)CC(COC1=C(C=CC=C1)[N+](=O)[O-])O | C13H18N2O5
reactant | diisopropylethylamine | 261 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | diethyl ether | one liter | C(C)OCC | C4H10O
product | 2-[3-(4-morpholinyl)-2-keto-1-propyloxy] nitrobenzene | 73.7 g | N1(CCOCC1)CC(COC1=C(C=CC=C1)[N+](=O)[O-])=O | C13H16N2O5
